US07960404B2
Stage 3: 4-Butyl-4-pyrrolidin-1-yl cyclohexanone (Keto Structural Unit 3)
Water (10.0 ml) and 37% hydrochloric acid (14.0 ml) were added to a solution of 1-(8-butyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine (2.70 g, 10.1 mmol) in acetone (100 ml) and the mixture was stirred overnight at room temperature. Then 4 M sodium hydroxide solution was added slowly to the mixture until a pH of 10 was achieved. The mixture was extracted with diethyl ether (4×40 ml), the combined organic phases were dried with sodium sulfate and concentrated to small volume under vacuum. The crude product (2.6 g) was purified by flash chromatography (260 g, 30×5.6 cm) with ethyl acetate/methanol (9:1). Yield: 1.06 g (47%), brown oil.

reactant | Water | 10.0 ml | O | H2O
reactant | hydrochloric acid | 14.0 ml | Cl | ClH
reactant | 1-(8-butyl-1,4-dioxaspiro[4,5]dec-8-yl)pyrrolidine | 10.1 mmol, 2.70 g | C(CCC)C1(CCC2(OCCO2)CC1)N1CCCC1 | C16H29NO2
reactant | sodium hydroxide | 4 M | [OH-].[Na+]
solvent | acetone | 100 ml | CC(=O)C | C3H6O
product | 4-Butyl-4-pyrrolidin-1-yl cyclohexanone | C(CCC)C1(CCC(CC1)=O)N1CCCC1 | C14H25NO
